US05424443
3-(2,4-dichloro-6-fluorobenzothiazol-7-yl)-5-(1,1-dimethylethyl)-1,3,4-oxadiazol-2(3H)-one
A solution of 1,4 g 2,4-dichloro-6-fluoro-7-[N-(2,2-dimethylpropanoyl)hydrazino]benzothiazole in 8 ml of a 20% solution of phosgene in toluene was heated for 8 hours at 100° C. After cooling, the toluene was removed in vacuo and the residue taken up in dichloromethane. The extract was shaken with aqueous sodium hydrogen carbonate and water, dried over magnesium sulfate and concentrated. The residue was recrystallised from isopropanol/diisopropyl ether. Yield: 0.5 g=40% of theory. m.p.: 157°-158° C.

reactant | 2,4-dichloro-6-fluoro-7-[N-(2,2-dimethylpropanoyl)hydrazino]benzothiazole | 1,4 g | ClC=1SC2=C(N1)C(=CC(=C2N(N)C(C(C)(C)C)=O)F)Cl | C12H12Cl2FN3OS
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(2,4-dichloro-6-fluorobenzothiazol-7-yl)-5-(1,1-dimethylethyl)-1,3,4-oxadiazol-2(3H)-one | ClC=1SC2=C(N1)C(=CC(=C2N2C(OC(=N2)C(C)(C)C)=O)F)Cl | C13H10Cl2FN3O2S
